US06204277B1
Dibenzyl 2-ethoxycarbonylmethyl-2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]malonate
Dibenzyl 2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]malonate (26.0 g, 45.2 mmol) synthesized according to the method described in WO95/18125 was dissolved in tetrahydrofuran (250 ml), and sodium hydride (60% in oil, 2.2 g, 54.2 mmol) was added at 0° C., which was followed by stirring at room temperature for 30 min. To the reaction mixture was added a solution of ethyl bromoacetate (15.3 ml, 135.6 mmol) in tetrahydrofuran (50 ml) at room temperature. After stirring for 1 hr, sodium hydride (60% in oil, 1.1 g, 27.1 mmol) and ethyl bromoacetate (5.1 ml, 45.2 mmol) were added. After stirring for 1 hr, sodium hydride (60% in oil, 2.2 g, 54.2 mmol) was added and the mixture was stirred for 1 hr. Water and 1N aqueous sodium hydrogensulfate solution were added to the reaction mixture and extracted three times with ethyl acetate (200 ml). The extracted organic layers were combined, washed with brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (developing solvent; hexane:ethyl acetate=5:1→3:1) to give the title compound (30.2 g, yield 100%) as an oil.

reactant | Dibenzyl 2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]malonate | 45.2 mmol, 26.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CC(C(=O)OCC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)C=C1 | C36H33NO6
reactant | sodium hydride | 54.2 mmol, 2.2 g | [H-].[Na+]
reactant | ethyl bromoacetate | 135.6 mmol, 15.3 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydride | 27.1 mmol, 1.1 g | [H-].[Na+]
reactant | ethyl bromoacetate | 45.2 mmol, 5.1 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydride | 54.2 mmol, 2.2 g | [H-].[Na+]
reactant | sodium hydrogensulfate | 1N | S(=O)(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | Dibenzyl 2-ethoxycarbonylmethyl-2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]malonate | 30.2 g, yield 100% | C(C)OC(=O)CC(C(=O)OCC1=CC=CC=C1)(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C40H39NO8
